US07910617B2
(1a) (2R)-1-Acetoxy-2-acetylamino-2-methyl-4-{1-methyl-5-[4-(4-methylphenyl)-1-(4-(4-methylphenyl)butanoyloxy)but-1-enyl]pyrrol-2-yl}butane
Thionyl chloride (9.0 mL, 123 mmol) and N,N -dimethylformamide (50 μL) were added to a solution of 4-(4-methylphenyl)butyric acid (11.0 g, 62.0 mmol) in benzene (220 mL) and the mixture was stirred at 80° C. for 2 hours. After cooling the mixture to room temperature, the solvent was evaporated under reduced pressure to obtain 5-(4-methylphenyl)butyric chloride. A solution of 4-dimethylaminopyridine (15.2 g, 124 mmol) and 4-(4-methylphenyl)butyric chloride (12.2 g, 62.0 mmol) in toluene (50 mL) was added to a solution of (2R)-1-acetoxy-2-acetylamino-2-methyl-4-(1-methylpyrrol-2-yl)butane (5.00 g, 18.8 mmol) obtained in Reference example 1 in toluene (150 mL) and the mixture was stirred at 110° C. for 48 hours. The temperature of the mixture was returned to room temperature and ethyl acetate and water were added to the reaction mixture to separate it. The thus obtained organic phase was separated, washed with water and a saturated aqueous NaCl solution and dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate:hexane, 3:2-2:1) to obtain the title compound (5.15 g, yield: 47%).

reactant | 4-(4-methylphenyl)butyric chloride | 62.0 mmol, 12.2 g | CC1=CC=C(C=C1)CCCC(=O)Cl | C11H13ClO
reactant | (2R)-1-acetoxy-2-acetylamino-2-methyl-4-(1-methylpyrrol-2-yl)butane | 18.8 mmol, 5.00 g | C(C)(=O)OC[C@](CCC=1N(C=CC1)C)(C)NC(C)=O | C14H22N2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 124 mmol, 15.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (2R)-1-Acetoxy-2-acetylamino-2-methyl-4-{1-methyl-5-[4-(4-methylphenyl)-1-(4-(4-methylphenyl)butanoyloxy)but-1-enyl]pyrrol-2-yl}butane | 5.15 g, yield: 47% | C(C)(=O)OC[C@](CCC=1N(C(=CC1)C(=CCCC1=CC=C(C=C1)C)OC(CCCC1=CC=C(C=C1)C)=O)C)(C)NC(C)=O | C36H46N2O5
